US04368200
A mixture of 3.2 parts of phenyl{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}carbamate, 50 parts of hydrazine hydrate and 100 parts of 1,4-dioxane is stirred and refluxed for 3 hours. The reaction mixture is cooled and poured onto water. The precipitated product is filtered off and crystallized from N,N-dimethylformamide, yielding 1.7 parts (63%) of N-{4-[4-(4-methoxyphenyl)-1-piperazinyl]-phenyl}hydrazinecarboxamide; mp. +300° C.

reactant | phenyl{4-[4-(4-methoxyphenyl)-1-piperazinyl]phenyl}carbamate | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)OC)=O | C24H25N3O3
reactant | hydrazine hydrate | O.NN
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | N-{4-[4-(4-methoxyphenyl)-1-piperazinyl]-phenyl}hydrazinecarboxamide | 63% | COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)NN | C18H23N5O2
